US05849757
2,4,5-Trifluoro-3-methylbenzoic acid
To 304.35 g of 4-carboxymethyl-3,5,6-trifluorophthalic acid dissolved in 1.5 liters of dimethyl sulfoxide was added 0.5 liter of triethylamine, followed by 64 hours of stirring at 140° C. After cooling to room temperature, dimethyl sulfoxide was evaporated. The resulting residue was mixed with 1 liter of 1N hydrochloric acid and extracted with ether (1 liter×3). The organic layer was washed with 1 liter of water and 1 liter of saturated brine, and then dried over sodium sulfate. By evaporating the solvent, 177.94 g (0.64 mol, 60%) of the title compound was obtained as a partially purified product.

reactant | 4-carboxymethyl-3,5,6-trifluorophthalic acid | 304.35 g | C(=O)(O)CC=1C(=C(C(C(=O)O)=C(C1F)F)C(=O)O)F | C10H5F3O6
reactant | triethylamine | 0.5 liter | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 1.5 liters | CS(=O)C | C2H6OS
product | 2,4,5-Trifluoro-3-methylbenzoic acid | 0.64 mol, 177.94 g, 60% | FC1=C(C(=O)O)C=C(C(=C1C)F)F | C8H5F3O2
